US07750154B2
N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzamide (AZ12272557)
Using an analogous procedure to that described paragraph (D) in the portion of Example 18 which is concerned with the preparation of starting materials tert-Butyl (3S)-3-[(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)oxy]pyrrolidine-1-carboxylate was reacted with 4N HCl in dioxane. There was thus obtained the title compound; NMR Spectrum: (DMSOd6) 0.54 (m, 2H), 0.68 (m, 2H), 1.80 (m, 1H), 2.04 (m, 1H), 2.11 (s, 3H), 2.84 (m, 4H), 3.08 (m, 2H), 4.98 (m, 1H), 7.48 (m, 3H), 7.71 (d, 1H), 7.81 (s, 1H), 7.89 (d, 1H), 8.16 (s, 1H), 8.42 (d, 1H); Mass Spectrum: M+H+ 405.

reactant | tert-Butyl (3S)-3-[(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)oxy]pyrrolidine-1-carboxylate | C1(CC1)NC(=O)C=1C=CC(=C(C1)N1C=NC2=CC=C(C=C2C1=O)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C | C28H32N4O5
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)O[C@@H]1CNCC1)=O | C23H24N4O3
